US05763599
Triton B (2 ml, 35% in MeOH) was added at 80° C. to a mixture of 5-methoxy-2-nitrotoluene (25 g, 150 mmol) and paraformaldehyde (2.3 g, 73 mmol) in DMSO (20 ml, synthesis quality, additionally dried for 2 d over molecular sieve 4 Å). After being stirred 2.5 h at this temperature, it was cooled to room temperature and neutralized with a few drops of conc. HCl. The mixture was diluted with H2O (50 ml) and extracted with EtOAc (5×100 ml). The organic phases were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was subjected to a distillation in a high vacuum (p=0.1 torr), whereby a fraction containing starting material (12.1 g) was obtained at 70° C. The residual crude product was purified by column chromatography (240 g SiO2, solvent: toluene/EtOAc 8:1 1400 ml, 7:1 1600 ml, 6:1 400 ml, 5:1 400 ml, 3:1 400 ml, 2:1 600 ml and 1:1 600 ml). 2-(5-methoxy-2-nitrophenyl)ethanol (6.87 g, 48%) was obtained as a yellow oil.

reactant | 5-methoxy-2-nitrotoluene | 150 mmol, 25 g | COC=1C=CC(=C(C1)C)[N+](=O)[O-] | C8H9NO3
reactant | paraformaldehyde | 73 mmol, 2.3 g | C=O | CH2O
solvent | MeOH | CO | CH4O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(5-methoxy-2-nitrophenyl)ethanol | 6.87 g, 48% | COC=1C=CC(=C(C1)CCO)[N+](=O)[O-] | C9H11NO4
